US05773463
(±) trans 1-(3,4-Dichlorophenylthio)-2-methylaminoindane Hydrochloride (E6)
To a suspension of LiAlH4 (0.34 g, 9.05 mmol) in dry diethyl ether under nitrogen was added a solution of (±) trans 1-(3,4-dichlorophenylthio)-2-ethoxycarbonylaminoindane (0.69 g, 1.81 mmol) in diethyl ether. After stirring at room temperature overnight, the reaction was worked up as described for Example 2, and then purified on a silica gel column using 1% ethanol in chloroform as eluant. The resulting oil (0.26 g) was extracted into n-pentane and treated with ethereal hydrogen chloride to give the title compound as a colourless solid, m.p. 143°-144° C. (from methanol/diethyl ether).

reactant | LiAlH4 | 9.05 mmol, 0.34 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (±) trans 1-(3,4-dichlorophenylthio)-2-ethoxycarbonylaminoindane | 1.81 mmol, 0.69 g | ClC=1C=C(C=CC1Cl)S[C@H]1[C@@H](CC2=CC=CC=C12)NC(=O)OCC | C18H17Cl2NO2S
solvent | diethyl ether | C(C)OCC | C4H10O
product | (±) trans 1-(3,4-Dichlorophenylthio)-2-methylaminoindane Hydrochloride | Cl.ClC=1C=C(C=CC1Cl)S[C@H]1[C@@H](CC2=CC=CC=C12)NC | InChI=1S/C16H15Cl2NS.ClH/c1-19-15-8-10-4-2-3-5-12(10)16(15)20-11-6-7-13(17)14(18)9-11;/h2-7,9,15-16,19H,8H2,1H3;1H/t15-,16-;/m1./s1
